US07253286B2
N6-Methyl-4-(4-chloro-3-(((cyclopropylamino)carbonyl) amino)phenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving N6-methyl-4-(3-amino-4-chlorophenoxy)-7-methoxy-6-quinolinecarboxamide (179 mg, 0.50 mmol) in dimethylformamide (2 ml) under a nitrogen atmosphere, pyridine (0.061 ml, 0.75 mmol) and phenyl chloroformate (0.094 ml, 0.75 mmol) were added dropwise at room temperature and the mixture was stirred for 1 hour. Cyclopropylamine (0.2 ml) was added dropwise and the mixture was further stirred overnight. The reaction solution was distributed between ethyl acetate and water, washed with saturated brine and dried over anhydrous sodium sulfate. After distilling off the solvent, the crystals precipitated from ethyl acetate were filtered out and blow-dried to obtain the title compound (163.9mg, 0.372 mmol, 74.3%) as white crystals.

reactant | N6-methyl-4-(3-amino-4-chlorophenoxy)-7-methoxy-6-quinolinecarboxamide | 0.50 mmol, 179 mg | CNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)Cl)N | C18H16ClN3O3
reactant | pyridine | 0.75 mmol, 0.061 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.75 mmol, 0.094 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Cyclopropylamine | 0.2 ml | C1(CC1)N | C3H7N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-Methyl-4-(4-chloro-3-(((cyclopropylamino)carbonyl) amino)phenoxy)-7-methoxy-6-quinolinecarboxamide | 0.372 mmol, 163.9mg, 74.3% | CNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)Cl)NC(=O)NC1CC1 | C22H21ClN4O4
